US04197292
An amylase inhibitor, TAI-B; being a white amorphous powder; having a decomposition point at 169°-174° C.; containing carbon, hydrogen and nitrogen with the analytical values (%) of C: 42.20, H: 6.47, N: 2.08; having an optical rotatory value of [α]D20 =+142°(c=0.5%, water); having a pKa value of 4.5 (in water); being of molecular weight 650-700 as determined; being soluble in water and dimethylsulfoxide, slightly soluble in methanol and pyridine, and insoluble in ethanol, ethylacetate, chloroform or acetone; having the infrared absorption spectrum shown in FIG. 2; having the nuclear magnetic resonance spectrum shown in FIG. 4; giving positive reactions with Molisch and anthrone; its acid hydrolyzate giving a positive reaction with ninhydrin; and showing the Rf values on thin layer chromatography and paper chromatography as follows:

reactant | hydrogen | [H][H] | H2
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | acetone | CC(=O)C | C3H6O
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | anthrone | C1=CC=CC=2CC3=CC=CC=C3C(C12)=O | C14H10O
